US04546098
3-Methylene-androst-4-ene-17β,19-diol--Compound 5
To a solution of 3-methylene-androst-4-ene-19-ol-17-one in methanol was added a 2 molar excess of sodium borohydride. The mixture was stirred overnight at room temperature, diluted with water, extracted with ethyl acetate, washed with water, the organic layer separated, and dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by thick layer chromatography over silica gel using n-hexane-ethyl acetate as a solvent.

reactant | 3-methylene-androst-4-ene-19-ol-17-one | C=C1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)=O | C20H28O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-Methylene-androst-4-ene-17β,19-diol | C=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)O | C20H30O2
